US04004907
99 g of 4-(3'-phenyl-propoxy)-nitrobenzene is dissolved in 2000 ml of methanol and hydrogenated with Raney nickel until the absorption of hydrogen is completed. The catalyst is filtered off and the filtrate is concentrated by evaporation to obtain, as a crystalline residue, 4-(3'-phenylpropoxy)-aniline having a melting point of 55°- 57°. -

reactant | 4-(3'-phenyl-propoxy)-nitrobenzene | 99 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C15H15NO3
solvent | methanol | 2000 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | hydrogen | [H][H] | H2
product | 4-(3'-phenylpropoxy)-aniline | C1(=CC=CC=C1)CCCOC1=CC=C(N)C=C1 | C15H17NO
